US07501411B2
Step 1: [5-(2-Methoxy-pyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine
This compound may be prepared using methods as described for Compound 6, step 4 using (5-bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (80 mg, 0.206 mmol), 2-methoxypyridine-4-boronic acid (63 mg, 0.412 mmol), Pd(PPh3)4 (0.052 mmol) and 1.5N Na2CO3 (1.1 mL, 1.65 mmol) in 2:1 DMF/dioxane (2.2 mL). The crude product is purified by silica gel column chromatography using 96:4 DCM:NH3 (7M in MeOH) and the fractions containing the desired product are combined and evaporated to afford the title compound (40 mg, 47%). HPLC (254 nm): Rt 2.26 min (65%).

reactant | (5-bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.206 mmol, 80 mg | BrC1=CN=C(C=2N1N=CN2)NC2=CC=C(C=C2)N2CCN(CC2)C | C16H18BrN7
reactant | 2-methoxypyridine-4-boronic acid | 0.412 mmol, 63 mg | COC1=NC=CC(=C1)B(O)O | C6H8BNO3
reactant | Na2CO3 | 1.65 mmol, 1.5N, 1.1 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.052 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF dioxane | 2.2 mL | CN(C)C=O.O1CCOCC1
product | [5-(2-Methoxy-pyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 40 mg, 47% | COC1=NC=CC(=C1)C1=CN=C(C=2N1N=CN2)NC2=CC=C(C=C2)N2CCN(CC2)C | C22H24N8O
